US04898822
After adding 10 g of lipase (Steapsin made by Wako Purechemical Industries, Ltd.) having (R)-selective esterase activity to 100 ml of 0.1M phosphate buffer at pH 7.0, a mixture was stirred and the insoluble material was removed. To the filtrate was added 60 g wet weight (containing 71% of water) of the methacrylate porous adsorbent Amberlite XAD-7 (made by Rohm & Haas Co.), which was washed with methanol and then with water, and a mixture was slowly stirred in a cold room (4° C.) for a night to immobilize the enzyme on the support by adsorption. The suspension containing the immobilized enzyme was filtered with suction by means of glass filter and the the filtrate was washed with 0.1M phosphate buffer at pH 7.0 three times (100 ml×3), followed by filtration with suction to give the wet immobilized enzyme. The obtained immobilized lipase was filled in the column (inner diameter: 2.2 cm, length: 15 cm), which was kept at 33° C. On the column was loaded 5 g of racemic amyl-indoline-2-carboxylate [(R,S)-Ia] and 0.1M phosphate buffer at pH 7.0 was passed through the column at a flow rate of 6 ml/h. Each 12 ml of the eluate collected from the column by a fraction collector was subjected to a liquid chromatography analysis. Only hydrophilic indoline-2-carboxylic acid produced by the asymmetric hydrolysis was contained. 180 ml of the phosphate buffer fraction was saturated with ammonium sulfate and the pH of the mixture was adjusted to 5.0, followed by extraction of indoline-2-carboxylic acid with an equivalent amount of ethyl acetate three times. The obtained ethyl acetate layer was dehydrated and concentrated under reduced pressure, followed by recrystallization in acetone-hexane (5 ml-1 ml). After driness in vacuum, 1.26 g of (R)-indoline2-carboxylic acid [(R)-II] having a specific rotatory power [α]D25 -32.5° (c=1.0, DMFA) (the value described in the literature J. Med. Chem. 26, 394 (1983) by D. H. Kim et al. is [α]D25 +34.5° (c=0.91, DMFA) was obtained as a white powder.

reactant | racemic amyl-indoline-2-carboxylate | 5 g | C(CCCC)OC(=O)C1NC2=CC=CC=C2C1 | C14H19NO2
solvent | phosphate | 0.1M, 100 ml | P(=O)([O-])([O-])[O-]
solvent | phosphate | 0.1M | P(=O)([O-])([O-])[O-]
product | indoline-2-carboxylic acid | N1C(CC2=CC=CC=C12)C(=O)O | C9H9NO2
